US07459448B2
9-Chloro-2-(3,5-dimethyl-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-35)
In a manner similar to that described for method I, 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-j) and N-(3,5-dimethyl-phenyl)-guanidine nitrate were converted to I-35 (71%): HRMS Calcd. for C20H17ClN40: 365.1169, Found 365.1190.

reactant | 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | ClC=1C=CC2=C(NC(CC(C2=O)=CN(C)C)=O)C1 | C13H13ClN2O2
reactant | N-(3,5-dimethyl-phenyl)-guanidine nitrate | [N+](=O)(O)[O-].CC=1C=C(C=C(C1)C)NC(=N)N
product | 9-Chloro-2-(3,5-dimethyl-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | ClC=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC(=CC(=C3)C)C)=O)C1 | C20H17ClN4O
